US07799805B2
(4-Chloro-3-formyl-benzyl)-ethyl-carbamic acid tert-butyl ester
MnO2 (475 mg, 4.92 mmol) was added to a sol. of (4-chloro-3-hydroxymethyl-benzyl)-ethyl-carbamic acid tert-butyl ester (295 mg, 0.984 mmol) in CH3CN (20 mL). The mixture was stirred at rt for 5 h and MnO2 (475 mg, 0.984 mmol) was added again. The mixture was stirred for 1 h, and the mixture was filtered over Celite, and washed with CH3CN and CH2Cl2. Evaporation of the solvents under reduced pressure yielded the crude title compound (240 mg, 82%) that was used further without purification. LC-MS: tR=1.02 min.

reactant | (4-chloro-3-hydroxymethyl-benzyl)-ethyl-carbamic acid tert-butyl ester | 0.984 mmol, 295 mg | C(C)(C)(C)OC(N(CC)CC1=CC(=C(C=C1)Cl)CO)=O | C15H22ClNO3
solvent | CH3CN | 20 mL | CC#N | C2H3N
catalyst | MnO2 | 4.92 mmol, 475 mg | O=[Mn]=O
catalyst | MnO2 | 0.984 mmol, 475 mg | O=[Mn]=O
product | (4-Chloro-3-formyl-benzyl)-ethyl-carbamic acid tert-butyl ester | 240 mg, 82% | C(C)(C)(C)OC(N(CC)CC1=CC(=C(C=C1)Cl)C=O)=O | C15H20ClNO3
